US07635701B2
2-(3 Chlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylic acid benzylamide
To a solution of 2-(3-chlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylic acid (35 mg) in dimethylformamide (2 ml) was added successively N-ethylmorpholine (42 μl), benzylamine (15 μl), 1-hydroxybenzotriazole hydrate (23 mg) and 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride (25 mg). The solution was stirred for 3 h and allowed to stand overnight. Dimethylformamide was removed under reduced pressure and ethyl acetate (5 ml) added. The solution was washed sequentially with 5% sodium bicarbonate solution (2.5 ml), water (2.5 ml), 5% citric acid solution (2.5 ml) and brine (2×2.5 ml), dried (MgSO4) and evaporated to afford the title compound (45 mg).

reactant | 2-(3-chlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylic acid | 35 mg | ClC=1C=C(C=CC1)NC1=NC=C(C(=N1)C(F)(F)F)C(=O)O | C12H7ClF3N3O2
reactant | N-ethylmorpholine | 42 μl | C(C)N1CCOCC1 | C6H13NO
reactant | benzylamine | 15 μl | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-hydroxybenzotriazole hydrate | 23 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride | 25 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-(3 Chlorophenylamino)-4-trifluoromethylpyrimidine-5-carboxylic acid benzylamide | 45 mg | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)NC1=CC(=CC=C1)Cl)C(F)(F)F | C19H14ClF3N4O
